US07781436B2
{6-Chloro-3-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid tert-butyl ester
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone (preparation described herein), with (commercially available) bromo-acetic acid tert-butyl ester gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C22H23ClN2O3
reactant | bromo-acetic acid tert-butyl ester | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
product | {6-Chloro-3-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC=C(C=C12)Cl)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC)=O | C28H33ClN2O5
